US06143919
2,2-di(N-methacryloxyethyl carbamoylmethyl) propionic acid (PDMA) is synthesized by reacting 2,2-Bis(hydroxymethyl)propionic acid (BHMPA) and two equivalents of Isocyanatoethylmethacrylate (IEM) as follows:

reactant | 2,2-Bis(hydroxymethyl)propionic acid | OCC(C(=O)O)(C)CO | C5H10O4
reactant | Isocyanatoethylmethacrylate | two equivalents | N(=C=O)CCOC(C(=C)C)=O | C7H9NO3
product | 2,2-di(N-methacryloxyethyl carbamoylmethyl) propionic acid | C(C(=C)C)(=O)OCCNC(=O)CC(C(=O)O)(C)CC(NCCOC(C(=C)C)=O)=O | C19H28N2O8
